US05665737
A suspension of 5-chloro-2-(3,5-di-t-butyl-4-hydroxy-benzyl)-7-ethynyl-benzoxazole (2.38 g, 6.0 mM), 2-bromo-pyridine (0.66 ml, 98%, 6.6 mM), bis(triphenylphosphine)palladium(II) dichloride (21.1 mg, 30 uM) and copper (I) iodide (1.2 mg, 6 uM) in triethylamine (12 ml) was heated at 90° C., under argon, for 1.5 hours. The triethylamine was removed in-vacuo and the residue dissolved in ether (100 ml). The organics were washed with water (50 ml), 1N HCl (100 ml) and saturated aqueous sodium hydrogen carbonate (100 ml), dried (Na2SO4) and evaporated in-vacuo to give 2.96 g (104.2%) of crude pyridylethynylbenzoxazole. The crude benzoxazole was purified by column chromatography (SiO2 ; dichloromethane), and the product crystallized from methanol and suspended in hot water. The resulting crystals were collected, washed, and dried to give 1.49 g (52.5%) of the title compound (top 138°-9° C.).

reactant | 5-chloro-2-(3,5-di-t-butyl-4-hydroxy-benzyl)-7-ethynyl-benzoxazole | 6.0 mM, 2.38 g | ClC=1C=C(C2=C(N=C(O2)CC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C1)C#C | C24H26ClNO2
reactant | 2-bromo-pyridine | 6.6 mM, 0.66 ml | BrC1=NC=CC=C1 | C5H4BrN
solvent | triethylamine | 12 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 30 uM, 21.1 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper (I) iodide | 6 uM, 1.2 mg | [Cu]I
product | pyridylethynylbenzoxazole | 2.96 g, 104.2% | N1=C(C=CC=C1)C#CC=1OC2=C(N1)C=CC=C2 | C14H8N2O
